datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]2)C1(C)C.CO[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92]>>CO[C:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][C:33]([N+](=O)[O-])=[CH:34][CH:35]=[CH:36]1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92] 10=20;20,21=21,22;22,23=23"
CO[C:61]([O-:10])=[O:62].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CO[C:61]([O:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1)=[O:62] 10=20
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.C[N:14]1[CH:10]=[CH:11][CH:12]=[CH:13]1>>C[N+:14]1=[CH:13][CH:12]=[CH:11][CH:10]1[CH:20]([CH:21]=[CH:22][N:23]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2-:11][H:10])[CH:73]=[CH:74]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.CO[C:65]1=[CH:64][CH:63]=[N+:62]([BH2:11])[CH:73]=[CH:74]1 10,11=10,20"
"FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CCC2)C(F)=C1F.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O+:12]=[C:11]2CCC[CH:10]2[C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)C(F)=C1F 10,11=10,20;12=11,12"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.COC(=O)C1CCC[N:12]1[C:11]1=[CH:10]CCCC1>>COC(=O)C1CCC[N+:12]1=[C:11]1CCCC[CH:10]1[CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](C)=[CH2:10].C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([CH2:10][C+:11](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>O=[N+]([O-])C1=CC=C([S:61]([CH:10](Cl)[CH:20]2CCC[C:22]([O-:23])=[CH:21]2)(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:20](C)([N:10]1[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12,13=11,12;14=13,14"
"C[C:11](=[CH2:10])[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>C[C+:11]([CH2:10][CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1)[CH2:62][Sn:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"COC1=C[C:72]2=[C:71](C=C1)[N:10]=[CH:61][CH:62]=[CH:63]2.C[C:22]([CH:21]=[CH2:20])=[O:23]>>COC1=C[C:72]2=[C:71](C=C1)[N+:10]([CH2:20][CH:21]=[C:22](C)[O-:23])=[CH:61][CH:62]=[CH:63]2 10=20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[C:11]([CH:10]([C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33])[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.O=[N+]([O-])C1=CC=C(/[CH:10]=[C:11](/[N:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)C=C1>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11](=[N+:12]2CCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
